US06528504B2
(R)-2-hydroxymethylpiperidine (288 mg, 2.50 mmol), 4-chlorophenethyl tosylate (931 mg, 3.00 mmol), sodium carbonate (320 mg, 3.00 mmol) and sodium iodide (30 mg, 0.20 mmol) were added to acetonitrile (25 ml), and they were heated under reflux at 90° C. for 10 hours. The solvent was evaporated under reduced pressure. The residue was distributed in ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with water and dried over magnesium sulfate. Then the solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with dichloromethane and then with dichloromethane and methanol (20:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (R)-1-(4-chlorophenethyl)-2-hydroxymethylpiperidine in the form of a light yellow oil (354 mg, 56%).

reactant | (R)-2-hydroxymethylpiperidine | 2.50 mmol, 288 mg | OC[C@@H]1NCCCC1 | C6H13NO
reactant | 4-chlorophenethyl tosylate | 3.00 mmol, 931 mg | S(=O)(=O)(OCCC1=CC=C(C=C1)Cl)C1=CC=C(C)C=C1 | C15H15ClO3S
reactant | sodium carbonate | 3.00 mmol, 320 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.20 mmol, 30 mg | [I-].[Na+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | (R)-1-(4-chlorophenethyl)-2-hydroxymethylpiperidine | ClC1=CC=C(CCN2[C@H](CCCC2)CO)C=C1 | C14H20ClNO
